// Generated for: spectre
// Generated on: Apr 21 15:56:44 2020
// Design library name: ee115c
// Design cell name: MOS_IV
// Design view name: schematic
simulator lang=spectre
global 0
parameters Vin=.5
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: ee115c
// Cell name: MOS_IV
// View name: schematic
NM3 (net014 net012 0 0) gpdk090_nmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
NM2 (net017 net012 0 0) gpdk090_nmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
PM2 (net014 0 net011 net011) gpdk090_pmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=1.04u pd=1.04u m=(1)*(1) simM=(1)*(1)
PM0 (net017 net012 net011 net011) gpdk090_pmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=1.04u pd=1.04u m=(1)*(1) simM=(1)*(1)
V1 (net012 net016) vsource dc=Vin type=dc
V0 (net011 0) vsource dc=1 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc param=Vin start=0 stop=1 step=0.01 write="spectre.dc" \
    oppoint=rawfile maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
